US05721230
In a manner analogous to that described in Example 11(iii), from 2.0 g (7.75 mmol) of 6,7,8,9-tetrahydro-N-methoxy-N-methylpyrido[1,2-a]indole-8(S)-carboxamide and 15 ml (30 mmol) of a 2M solution of cyclopentylmagnesium chloride in diethyl ether, there were obtained 1.1 g of cyclopentyl 6,7,8,9-tetrahydropyrido[1,2-a]indol-8(S)-yl ketone as a pale yellow solid of melting point 69° C.

reactant | 6,7,8,9-tetrahydro-N-methoxy-N-methylpyrido[1,2-a]indole-8(S)-carboxamide | 7.75 mmol, 2.0 g | CON(C(=O)[C@@H]1CC=2N(C3=CC=CC=C3C2)CC1)C | C15H18N2O2
reactant | cyclopentylmagnesium chloride | C1(CCCC1)[Mg]Cl
solvent | diethyl ether | C(C)OCC | C4H10O
product | cyclopentyl 6,7,8,9-tetrahydropyrido[1,2-a]indol-8(S)-yl ketone | 1.1 g | C1=C2C=C3N(C2=CC=C1)CC[C@@H](C3)C(=O)C3CCCC3 | C18H21NO
